US08138187B2
2 M benzylmagnesium chloride solution in THF (3, 285 ml, 570 mmol) was added to a solution of 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile (39.8 g, 190 mmol) in THF (300 ml) in the course of 15 min, under argon and while cooling with ice. The mixture was then stirred at RT for 16 h. For working up of the reaction mixture, saturated ammonium chloride solution (200 ml) and water (100 ml) was added, while cooling with ice, and the mixture was extracted with diethyl ether (3×100 ml). The organic phase was extracted by shaking with water (50 ml) and saturated NaCl solution (50 ml) and the extract was then concentrated. A white solid (68.34 g) remained which, apart from the product, still contained the educt. The crude product was dissolved in ethyl methyl ketone (250 ml), and ClSiMe3 (30 ml, 238 mmol) was added, while cooling with ice. After 16 h, dimethyl-(8-benzyl-1,4-dioxa-spiro[4.5]dec-8-yl)amine hydrochloride was isolated in a yield of 52% (40.33 g) as a white solid with a melting point of 276-280° C.

reactant | benzylmagnesium chloride | 2 M | C(C1=CC=CC=C1)[Mg]Cl
reactant | 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 190 mmol, 39.8 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ClSiMe3 | 238 mmol, 30 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 570 mmol, 285 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | dimethyl-(8-benzyl-1,4-dioxa-spiro[4.5]dec-8-yl)amine hydrochloride | yield of 52% | Cl.CN(C1(CCC2(OCCO2)CC1)CC1=CC=CC=C1)C | InChI=1S/C17H25NO2.ClH/c1-18(2)16(14-15-6-4-3-5-7-15)8-10-17(11-9-16)19-12-13-20-17;/h3-7H,8-14H2,1-2H3;1H
